US06048864
(a) 4-Cyano-3-fluoro-5-(2,2,2-trifluoroethoxy)anisole
Sodium hydride (1.6 g, 60%, 0.040 mol) was added to a solution of trifluoroethanol (4.0 g, 0.040 mol) in dimethylformamide (50 ml) and the solution stirred for 90 minutes. This solution was then added to 4-cyano-3,5-difluoroanisole [Grey et al, Mol Cryst Liq Cryst, 172, 165-189 (1989)] (6.30 g, 0.037 mol) in tetrahydrofuran (50 ml) and the reaction stirred at room temperature for 2 hours. The reaction mixture was poured into diethyl ether (250 ml) washed with water (2×150 ml) and then brine (50 ml). The organic layer was dried (MgSO4), filtered and evaporated under reduced pressure, then triturated with diethyl ether:hexane to give the subtitle compound as white crystals (5.92 g, 59%). Rf 0.14 (dichloromethane:hexane, 1:2, v/v). MS m/z 267 (MNH4)+.

reactant | Sodium hydride | 0.040 mol, 1.6 g | [H-].[Na+]
reactant | trifluoroethanol | 0.040 mol, 4.0 g | C(C(F)(F)F)O | C2H3F3O
reactant | 4-cyano-3,5-difluoroanisole | 0.037 mol, 6.30 g | C(#N)C1=C(C=C(C=C1F)OC)F | C8H5F2NO
reactant | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-Cyano-3-fluoro-5-(2,2,2-trifluoroethoxy)anisole | 5.92 g, 59% | C(#N)C1=C(C=C(C=C1OCC(F)(F)F)OC)F | C10H7F4NO2
